2164-08-24 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2164-8-23**] 09:42 AM
 ENDOSCOPY - At [**2164-8-23**] 10:30 AM
 ARTERIAL LINE - START [**2164-8-23**] 11:02 AM
 MULTI LUMEN - START [**2164-8-23**] 03:23 PM
   - Patient received 12 [**Location 392**], 5 [**Location 8394**], and 1 U of cryo
   - Given 30 mcg of DDAVP
   - Intubated for emergent EGD
   - GI performed EGD, which showed: Esophageal varices, Blood in the
   stomach, Blood in the duodenal bulb and second part of the duodenum
   A large visible vessel was seen in the proximal duodenum and appeared
   to be the source of bleeding. This vessel likely represents vessel in
   an ulcer base, and less likely a duodenal varix. (injection, thermal
   therapy)
   - CVL and arterial line placed
   - Renal was C/S for ARF in the setting of massive GIB: Cr improved to
   1.5 from 3, so it is thought that this is more likely [**2-6**] pre-renal
   intravascular depletion.  Continue aggressive fluid repletion, check
   daily urine Na, osms, check intravesicular pressure and keep < 20.
   - Hepatology: rec'd large volume paracentesis, continue Abx, PPI, and
   octreotide
   - Hcts: 12 PM 33.6, 5 PM 29.9
   - BPs continued to drop: 179/100 -> 102/49
   - NGT placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 44 (43 - 94) bpm
   BP: 108/64(78) {96/49(63) - 176/106(128)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
    Bladder pressure: 18 (16 - 36) mmHg
   Total In:
                                                                  9,437 mL
                                                                    876 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,790 mL
                                                                    391 mL
   Blood products:
                                                                  6,527 mL
                                                                    485 mL
   Total out:
                                                                  1,435 mL
                                                                    210 mL
   Urine:
                                                                    435 mL
                                                                    210 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  8,002 mL
                                                                    666 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 299 (299 - 299) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 38 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.32/28/169/15/-10
   Ve: 8.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General: intubated
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffuse tender to plapation, distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: pitting [**Last Name (un) 6946**] to thigh, warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: diffuse jaundice
   Labs / Radiology
   104 K/uL
   11.8 g/dL
   127 mg/dL
   1.8 mg/dL
   15 mEq/L
   4.8 mEq/L
   36 mg/dL
   115 mEq/L
   138 mEq/L
   33.6 %
   13.0 K/uL
        [image002.jpg]
                             [**2164-8-23**]  11:10 AM
                             [**2164-8-23**]  12:07 PM
                             [**2164-8-23**]  12:09 PM
                             [**2164-8-23**]  12:21 PM
                             [**2164-8-23**]  05:05 PM
                             [**2164-8-23**]  05:11 PM
                             [**2164-8-23**]  07:19 PM
                             [**2164-8-23**]  11:34 PM
                             [**2164-8-24**]  04:01 AM
                             [**2164-8-24**]  04:11 AM
   WBC
   23.1
   17.4
   12.5
   13.0
   Hct
   33.6
   29.9
   29.1
   28.7
   33.6
   Plt
   194
   126
   104
   Cr
   1.5
   1.8
   1.8
   TCO2
   14
   15
   15
   15
   Glucose
   181
   143
   127
   Other labs: PT / PTT / INR:18.4/40.5/1.7, ALT / AST:22/55, Alk Phos / T
   Bili:77/22.7, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:184 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   52 y/o M with PMHx of etoh cirrhosis is transfered to MICU after
   developing GIB and noted to have acute anemia, leukocytosis and
   elevated INR.
   # GIB: Duodenal ulcer s/p EGD. HCT stable overnight.  Was transfused 3
   more Units PRBCs overnight.
   - pIVx3 and CVL
   - t/s + crossmatch
   - Speak to GI re changing PPI to [**Hospital1 **] and d/c
ing octreotide ggt
   - HCT>30, PLT>50, INT<1.5
   - hold BB, antihypertensives
   - Check Hct q8h
   # Bradycardia: sinus
   - monitor
   - atropine/lifepoac at baseline
   # Respiratory: intubated for airway protection
   - RISBI 15, extubate later
   - CXR with r hilar fullnea but no fever, improving wbcs
   - Advance ETT 2 cm
   # Leukocytosis: Improving.  Likely SBP but para without PMNs. Cx pnd
   - Continue Zosyn, if negative cx then CTX
   - Decrease Zosyn for renal dosing
   - monitor
   # Acute renal failure: cre improving to 1..8. Likely volume depletion
   but urine Na high, so still suspect a intrinsic component.
   - urine output still oligouric
   - monitor
   # Non anion gap, hyperchloremic metabolic acidosis: HCO3 improving to
   15.  Likely secondary to loose stool and GI losses.
   - NaHCO3 ggt or boluses if worsens
   # Cirrhosis: EtOH in nature
   - impared synthetic function: reverse INR, follow bili
   - hepatic encephalopathy: lactulose/rifaximin
   - grade 1 varices: holding nadolol, PPI [**Hospital1 **], monitor for emesis
   - ascites: holding diuretics.  Therapeutic paracentesis when more
   stable
   # EtOH abuse: last drink 3 wks ago.
   .
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: PNB
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-8-23**] 04:57 AM
   20 Gauge - [**2164-8-23**] 09:00 AM
   Arterial Line - [**2164-8-23**] 11:02 AM
   Multi Lumen - [**2164-8-23**] 03:23 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-08-24 09:58:00 Physician Attending Progress Note
Chief Complaint: GIB, ulcer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with etoh cirrhosis, presented with life-threatening bleeding from
   duodenal ulcer, s/p clipping of a visible vessel within a duodenal
   ulcer.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2164-8-23**] 09:42 AM
 ENDOSCOPY - At [**2164-8-23**] 10:30 AM
 ARTERIAL LINE - START [**2164-8-23**] 11:02 AM
 MULTI LUMEN - START [**2164-8-23**] 03:23 PM
   -s/p egd, see report
   -s/p diagnostic para, no sbp now on abx
   -lines placed
   -bladder pressure decreased
   -uop improving
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   thiamin, mvi, [**Last Name (un) **], lactulose, ocreotide, protonix, zosyn, prop,
   chlorhex,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, OG / NG tube
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: No(t) Dysuria, No(t) Foley
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-8-24**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.2
C (95.4
   HR: 48 (43 - 94) bpm
   BP: 115/69(81) {96/49(63) - 176/106(128)} mmHg
   RR: 9 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
   Bladder pressure: 16 (16 - 36) mmHg
   Total In:
                                                                  9,437 mL
                                                                  1,069 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,790 mL
                                                                    463 mL
   Blood products:
                                                                  6,527 mL
                                                                    485 mL
   Total out:
                                                                  1,435 mL
                                                                    340 mL
   Urine:
                                                                    435 mL
                                                                    340 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  8,002 mL
                                                                    729 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,153 (299 - 1,153) mL
   RR (Set): 0
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.32/28/169/15/-10
   Ve: 7.9 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   104 K/uL
   127 mg/dL
   1.8 mg/dL
   15 mEq/L
   4.8 mEq/L
   36 mg/dL
   115 mEq/L
   138 mEq/L
   34.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2164-8-23**]  12:07 PM
                             [**2164-8-23**]  12:09 PM
                             [**2164-8-23**]  12:21 PM
                             [**2164-8-23**]  05:05 PM
                             [**2164-8-23**]  05:11 PM
                             [**2164-8-23**]  07:19 PM
                             [**2164-8-23**]  11:34 PM
                             [**2164-8-24**]  04:01 AM
                             [**2164-8-24**]  04:11 AM
                             [**2164-8-24**]  08:42 AM
   WBC
   23.1
   17.4
   12.5
   13.0
   12.8
   Hct
   33.6
   29.9
   29.1
   28.7
   33.6
   34.7
   Plt
   194
   126
   104
   Cr
   1.5
   1.8
   1.8
   TCO2
   15
   15
   15
   Glucose
   181
   143
   127
   Other labs: PT / PTT / INR:18.4/40.5/1.7, ALT / AST:22/55, Alk Phos / T
   Bili:77/22.7, Fibrinogen:160 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:184 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Imaging: cxr: improved lung volumes; ETT high
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   52M with etoh cirrhosis, presented with life-threatening bleeding from
   duodenal ulcer, s/p clipping of a visible vessel within a duodenal
   ulcer. Continued slow HCT drop overnight, s/p transfusion of PRBC with
   appropriate increase in hct, without evidence of active GIB now. Will
   plan to extubate and to continue to observe (after discussion with GI
   to ensure that he does not need another procedure). If bleeding recurs,
   GI will likely repeat endoscopy given another possible source more
   distal in the duodenum. IR would be the next option. Adequate access.
   The etiology of the ulcer is unclear
 will try to obtain a better
   history. H.pylori antibodies reportedly negative in the past.
   Etiology of acute renal failure is likely multifactorial, possible
   pre-renal vs. intrinsic renal vs. HRS. Renal impression is ATN. Appears
   to be improving with aggressive fluid resuscitation and after
   decompression of stomach post EGD.
   ICU Care
   Nutrition:  NPO for now given GIB for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2164-8-23**] 09:00 AM
   Arterial Line - [**2164-8-23**] 11:02 AM
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-24**] 09:04 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2164-08-25 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2164-8-24**] 10:30 AM
 INVASIVE VENTILATION - STOP [**2164-8-24**] 03:00 PM
   - extubated successfully in afternoon
   - hct remained stable
   - repeated UA/cx and changed foley b/c of pyuria and bacteriuria
   - restarted pantoprazole gtt per liver reccs (want gtt for 72 hrs)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-8-24**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.5
C (95.9
   HR: 67 (45 - 76) bpm
   BP: 121/65(83) {92/52(69) - 142/82(98)} mmHg
   RR: 14 (8 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 26 (12 - 26)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  1,639 mL
                                                                    258 mL
   PO:
   TF:
   IVF:
                                                                    974 mL
                                                                    258 mL
   Blood products:
                                                                    485 mL
   Total out:
                                                                  1,180 mL
                                                                    510 mL
   Urine:
                                                                  1,180 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    459 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 900 (900 - 1,153) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.31/26/174/16/-11
   Ve: 8.7 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General: intubated
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffuse tender to plapation, distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: pitting [**Last Name (un) 6946**] to thigh, warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: diffuse jaundice
   Labs / Radiology
   94 K/uL
   11.4 g/dL
   88 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.9 mEq/L
   38 mg/dL
   115 mEq/L
   139 mEq/L
   33.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2164-8-23**]  11:34 PM
                             [**2164-8-24**]  04:01 AM
                             [**2164-8-24**]  04:11 AM
                             [**2164-8-24**]  08:42 AM
                             [**2164-8-24**]  10:26 AM
                             [**2164-8-24**]  12:00 PM
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
   WBC
   12.5
   13.0
   12.8
   10.3
   Hct
   28.7
   33.6
   34.7
   34.8
   33.8
   33.0
   Plt
   104
   94
   Cr
   1.8
   2.1
   TCO2
   15
   14
   Glucose
   127
   118
   98
   88
   Other labs: PT / PTT / INR:18.2/43.1/1.6, ALT / AST:25/78, Alk Phos / T
   Bili:80/23.3, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:187 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   52 y/o M with PMHx of etoh cirrhosis is transfered to MICU after
   developing GIB and noted to have acute anemia, leukocytosis and
   elevated INR.
   # GIB: Duodenal ulcer s/p EGD. HCT stable overnight and no longer
   requiring transfusions.
   - PPI gtt and octreotide ggt
   - HCT>30, PLT>50, INT<1.5
   - hold BB, antihypertensives
   - Check Hct q12h
   # Respiratory failure:  Intubated for airway protection in setting of
   UGIB.  S/p extubation on [**2164-8-24**].
   - continue to monitor
   # Leukocytosis:  Improving.  Likely SBP but para without PMNs. Cx pnd.
   - will d/c zosyn and start ciprofloxacin
   - f/u cx data
   - monitor
   # Acute renal failure: ATN with possible elements of HRS.
   - start midodrine and continue octreotide per liver
   - urine output improving
   - renal recs
   - monitor
   # Non anion gap, hyperchloremic metabolic acidosis: HCO3 improving to
   15.  Likely secondary to loose stool and GI losses.
   - NaHCO3 ggt or boluses if worsens
   # Cirrhosis: EtOH in nature
   - impared synthetic function: reverse INR, follow bili
   - hepatic encephalopathy: lactulose/rifaximin
   - grade 1 varices: holding nadolol, PPI [**Hospital1 **], monitor for emesis
   - ascites: will start lasix for LE edema.  Consider starting
   spironolactone in future.
   # EtOH abuse: last drink 3 wks ago.
   .
   FEN: No IVF, replete electrolytes, NPO
   Prophylaxis: PNB
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-23**] 09:00 AM
   Arterial Line - [**2164-8-23**] 11:02 AM
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-24**] 09:04 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-08-25 10:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2164-8-24**] 10:30 AM
 INVASIVE VENTILATION - STOP [**2164-8-24**] 03:00 PM
   Extubated yesterday, remained stable hemodynamically
   U/a repeated for GPC, foley changed.
   Pantoprazole drip restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-8-24**] 10:30 AM
   Other medications:
   thiamine, mvi, ursodiol, lactulose 30 [**Hospital1 **], octreotide drip, protonix
   drip, zosyn 2.25 q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: pain and swelling of legs
   Flowsheet Data as of  [**2164-8-25**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 63 (49 - 76) bpm
   BP: 130/72(91) {92/52(69) - 153/83(105)} mmHg
   RR: 15 (9 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
   CVP: 26 (12 - 26)mmHg
   Total In:
                                                                  1,639 mL
                                                                    332 mL
   PO:
   TF:
   IVF:
                                                                    974 mL
                                                                    332 mL
   Blood products:
                                                                    485 mL
   Total out:
                                                                  1,180 mL
                                                                    810 mL
   Urine:
                                                                  1,180 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    459 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 900 (900 - 990) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.31/26/174/16/-11
   Ve: 8.7 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 2 (person, month/year), Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   94 K/uL
   88 mg/dL
   2.1 mg/dL
   16 mEq/L
   3.9 mEq/L
   38 mg/dL
   115 mEq/L
   139 mEq/L
   33.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2164-8-23**]  11:34 PM
                             [**2164-8-24**]  04:01 AM
                             [**2164-8-24**]  04:11 AM
                             [**2164-8-24**]  08:42 AM
                             [**2164-8-24**]  10:26 AM
                             [**2164-8-24**]  12:00 PM
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
   WBC
   12.5
   13.0
   12.8
   10.3
   Hct
   28.7
   33.6
   34.7
   34.8
   33.8
   33.0
   Plt
   104
   94
   Cr
   1.8
   2.1
   TCO2
   15
   14
   Glucose
   127
   118
   98
   88
   Other labs: PT / PTT / INR:18.2/43.1/1.6, ALT / AST:25/78, Alk Phos / T
   Bili:80/23.3, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:187 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.5 mg/dL,
   bladder pressure 16
   Microbiology: Ascites - no pmn, no wbc, no growth but tap was done
   while on abx
   Assessment and Plan
 BRADYCARDIA
 URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   52M with etoh cirrhosis, presented with life-threatening bleeding from
   duodenal ulcer, s/p clipping of a visible vessel within a duodenal
   ulcer. The etiology of the ulcer is unclear. H.pylori antibodies
   reportedly negative in the past.
   - UGI bleed with blood loss anemia: stable Hct now. Continue to f/u Hct
   q12h. If bleeding recurs, GI will consider repeat endoscopy given
   another possible source more distal in the duodenum. IR would be the
   next option. Adequate access.
   - Acute renal failure: creat peaked at 3.0. Etiology likely
   multifactorial, possible pre-renal vs. intrinsic renal vs. HRS. Per
   hepatology recs, will start midodrine and continue octreotide. Renal
   impression is ATN. Had improvement initially with aggressive fluid
   resuscitation and after decompression of stomach post EGD.
   - Cirrhosis/hyperbilirubinemia
   - Anasarca: start lasix and consider starting spironolactone tonight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2164-8-23**] 09:00 AM
   Arterial Line - [**2164-8-23**] 11:02 AM
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-24**] 09:04 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill but likely stable for transfer later.

2164-08-26 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-8-25**] 11:44 AM
   - Maroon stools through the day, hemodynamically stable
   - HCT 33, 31
   - lasix 20 mg, put out aprox 3L
   - repleted K and Mg
   - noted K of 8 was lab error.
   - Pt was given Albumin 50g [**Hospital1 **] for 48 hours
   - Zosyn changed yesterday to Cipro 250 mg [**Hospital1 **] for SBP
   - Pt got OOB to chair yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Ciprofloxacin - [**2164-8-25**] 10:31 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2164-8-25**] 10:31 AM
   Other medications:
   Thiamine
   Ursodiol
   Lactulose
   Octreotide gtt
   Protonix gtt
   MVI daily
   Albumin 50 g daily x48 hours (Day #2)
   Midodrine 5 mg TID
   Cipro 250 PO q12
   Rifaximin 400 mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-26**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 64 (54 - 76) bpm
   BP: 123/70(81) {92/52(67) - 145/80(91)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,941 mL
                                                                    435 mL
   PO:
                                                                    960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    781 mL
                                                                    315 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,600 mL
                                                                  1,930 mL
   Urine:
                                                                  5,600 mL
                                                                  1,080 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -3,659 mL
                                                                 -1,495 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General: AAOx3 nad.  Increased asterixis
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffuse tender to plapation, distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: pitting [**Last Name (un) 6946**] to thigh, warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: diffuse jaundice
   Labs / Radiology
   86 K/uL
   11.3 g/dL
   107 mg/dL
   1.8 mg/dL
   17 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   31.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2164-8-24**]  10:26 AM
                             [**2164-8-24**]  12:00 PM
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
                             [**2164-8-25**]  01:47 PM
                             [**2164-8-25**]  09:06 PM
                             [**2164-8-25**]  09:07 PM
                             [**2164-8-26**]  04:00 AM
   WBC
   10.3
   8.5
   Hct
   34.8
   33.8
   33.0
   32.9
   33.1
   31.4
   Plt
   94
   86
   Cr
   2.1
   1.8
   1.8
   TCO2
   14
   Glucose
   118
   98
   88
   141
   107
   Other labs: PT / PTT / INR:20.2/46.3/1.9, ALT / AST:26/82, Alk Phos / T
   Bili:80/26.3, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:187 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   52 y/o M with PMHx of etoh cirrhosis is transfered to MICU after
   developing GIB and noted to have acute anemia, leukocytosis and
   elevated INR.
   # GIB: Duodenal ulcer s/p EGD. Maroon stools yesterday but HCT stable
   overnight and no longer requiring transfusions.
   - Change PPI and Octreotide from gtt to [**Hospital1 **]
   - HCT>21, PLT>50, INR<1.7
   - hold BB, antihypertensives
   - Check Hct q12h
   # Thrombocytopenia:  Pt
s platelets have been decreasing over the past
   three days.  DDx includes underlying liver disease, splenomegaly,
   medication effect (PPI)
   - Continue to monitor plts and transfuse for < 50.
   # Respiratory failure:  Intubated for airway protection in setting of
   UGIB.  S/p extubation on [**2164-8-24**].
   - continue to monitor
   # Leukocytosis:  Improving.  Likely SBP but para without PMNs. Cx
   NGTD.  He was started on Cipro yesterday.
   - Continue Cipro 250 mg [**Hospital1 **] for 7 days and then transition to ppx dose
   # Acute renal failure: ATN with possible elements of HRS. Cr decreased
   yesterday and UOP increased dramatically.
   - Continue midodrine, albumin, and octreotide today
   - F/U renal recs
   # Non anion gap, hyperchloremic metabolic acidosis: HCO3 improving to
   17.  Likely secondary to loose stool and GI losses.
   - NaHCO3 ggt or boluses if worsens
   # Cirrhosis: EtOH in nature.  Asterixis increased today.
   - impared synthetic function: reverse INR, follow bili
   - hepatic encephalopathy: lactulose/rifaximin
   - grade 1 varices: holding nadolol, PPI [**Hospital1 **], monitor for emesis
   - ascites: responded very well to lasix. Consider starting
   spironolactone in future.
   # EtOH abuse: last drink 3 wks ago.
   ICU Care
   Nutrition: Regular soft solid diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-26**] 04:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU v. floor, pending clinical improvement today

2164-08-26 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2164-8-25**] 11:44 AM
   Maroon stools, lasix 20 mg given
   U/o ~ 3L
   Diarrhea 850 cc via rectal tube
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Ciprofloxacin - [**2164-8-25**] 10:31 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2164-8-25**] 10:31
   Other medications:
   Reviewed - thiamine, ursodiol, lactulose 30 tid, protonix and
   octreotide drips, mvi, albumin, midodrine 5 mg tid, cipro q12h,
   rifaximin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-26**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 59 (54 - 72) bpm
   BP: 127/80(91) {92/52(67) - 145/80(91)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  1,941 mL
                                                                    722 mL
   PO:
                                                                    960 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    781 mL
                                                                    362 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  5,600 mL
                                                                  2,150 mL
   Urine:
                                                                  5,600 mL
                                                                  1,300 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -3,659 mL
                                                                 -1,428 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, splenomegaly
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed, asterixis
   Labs / Radiology
   11.3 g/dL
   86 K/uL
   107 mg/dL
   1.8 mg/dL
   17 mEq/L
   4.1 mEq/L
   35 mg/dL
   112 mEq/L
   140 mEq/L
   31.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2164-8-24**]  10:26 AM
                             [**2164-8-24**]  12:00 PM
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
                             [**2164-8-25**]  01:47 PM
                             [**2164-8-25**]  09:06 PM
                             [**2164-8-25**]  09:07 PM
                             [**2164-8-26**]  04:00 AM
   WBC
   10.3
   8.5
   Hct
   34.8
   33.8
   33.0
   32.9
   33.1
   31.4
   Plt
   94
   86
   Cr
   2.1
   1.8
   1.8
   TCO2
   14
   Glucose
   118
   98
   88
   141
   107
   Other labs: PT / PTT / INR:20.2/46.3/1.9, ALT / AST:26/82, Alk Phos / T
   Bili:80/26.3, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.1
   g/dL, LDH:187 IU/L, Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 BRADYCARDIA
 URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   52M with etoh cirrhosis, presented with life-threatening bleeding from
   duodenal ulcer, s/p clipping of a visible vessel within a duodenal
   ulcer. The etiology of the ulcer is unclear. H.pylori antibodies
   reportedly negative in the past.
   - UGI bleed with blood loss anemia: stable Hct now. Continue to f/u Hct
   q12h but if stable would decrease to daily. If bleeding recurs, GI will
   consider repeat endoscopy given another possible source more distal in
   the duodenum. IR would be the next option. Adequate access.
   - Acute renal failure: creat peaked at 3.0. Etiology likely
   multifactorial, possible pre-renal vs. intrinsic renal vs. HRS. Per
   hepatology recs, will start midodrine and continue octreotide. Renal
   impression is ATN. Had improvement initially with aggressive fluid
   resuscitation and after decompression of stomach post EGD. Past 24
   hours has put out 3L fluid with no change in creatinine. Will continue
   midodrine, albumin and octreotide.
   - Cirrhosis/hyperbilirubinemia
   - Thrombocytopenia may be due to hypersplenism vs pseudo vs med
   related. Will watch for now.
   - Anasarca: diuresing at this time. Will eventually benefit from adding
   spironolactone.
   - Diet: advance to soft solid
   ICU Care
   Nutrition: advance
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-26**] 04:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None, up in chair)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU for now
   Total time spent: 33 minutes
   Patient is critically ill

2164-08-27 09:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Changed Octreotide and PPI to [**Hospital1 **]
   - Hct remained stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Ciprofloxacin - [**2164-8-25**] 10:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-8-27**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 60 (56 - 84) bpm
   BP: 143/71(89) {109/62(74) - 143/99(103)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,441 mL
                  PO:
                                                                  1,930 mL
                  TF:
   IVF:
                                                                    411 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,910 mL
                                                                    980 mL
   Urine:
                                                                  2,360 mL
                                                                    980 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -1,469 mL
                                                                   -980 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera icteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffuse tender to plapation, distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly
   GU: foley
   Ext: pitting [**Last Name (un) 6946**] to thigh, warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: diffuse jaundice
   Labs / Radiology
   96 K/uL
   10.8 g/dL
   126 mg/dL
   1.5 mg/dL
   16 mEq/L
   3.8 mEq/L
   29 mg/dL
   113 mEq/L
   139 mEq/L
   31.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
                             [**2164-8-25**]  01:47 PM
                             [**2164-8-25**]  09:06 PM
                             [**2164-8-25**]  09:07 PM
                             [**2164-8-26**]  04:00 AM
                             [**2164-8-26**]  03:26 PM
                             [**2164-8-27**]  04:00 AM
   WBC
   10.3
   8.5
   8.3
   Hct
   34.8
   33.8
   33.0
   32.9
   33.1
   31.4
   34.0
   31.9
   Plt
   94
   86
   96
   Cr
   2.1
   1.8
   1.8
   1.5
   Glucose
   98
   88
   141
   107
   126
   Other labs: PT / PTT / INR:21.6/47.0/2.0, ALT / AST:24/82, Alk Phos / T
   Bili:94/25.2, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9
   g/dL, LDH:172 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   52 y/o M with PMHx of etoh cirrhosis is transfered to MICU after
   developing GIB and noted to have acute anemia, leukocytosis and
   elevated INR.
   # GIB: Duodenal ulcer s/p EGD. Maroon stools yesterday but HCT stable
   overnight and no longer requiring transfusions.
   - Continue [**Hospital1 **] PPI and Octreotide (for HRS)
   - HCT>21, PLT>50, INR<1.7
   - hold BB, antihypertensives
   - Check Hct q12h
   # Thrombocytopenia:  Pt
s platelets have been decreasing over the past
   three days.  DDx includes underlying liver disease, splenomegaly,
   medication effect (PPI)
   - Continue to monitor plts and transfuse for < 50.
   # Respiratory failure:  Intubated for airway protection in setting of
   UGIB.  S/p extubation on [**2164-8-24**].
   - continue to monitor
   # Leukocytosis:  Improving.  Likely SBP but para without PMNs. Cx
   NGTD.  He was started on Cipro yesterday.
   - Continue Cipro 250 mg [**Hospital1 **] for 7 days and then transition to ppx dose
   # Acute renal failure: ATN with possible elements of HRS. Cr decreased
   yesterday and UOP increased dramatically.
   - Discontinue midodrine, albumin, and octreotide today
   - F/U renal recs
   # Non anion gap, hyperchloremic metabolic acidosis: HCO3 improving to
   17.  Likely secondary to loose stool and GI losses.
   - NaHCO3 ggt or boluses if worsens
   # Cirrhosis: EtOH in nature.  Asterixis improved today.
   - impared synthetic function: reverse INR, follow bili
   - hepatic encephalopathy: lactulose/rifaximin
   - grade 1 varices: holding nadolol, PPI [**Hospital1 **], monitor for emesis
   - ascites: responded very well to lasix. Consider starting
   spironolactone in future.
   # EtOH abuse: last drink 3 wks ago.
   ICU Care
   Nutrition: Advance diet as tolerated
   Glycemic Control:
   Lines:
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-26**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To floor today

2164-08-27 12:07:00 Physician Attending Progress Note
Chief Complaint: gib - ulcer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with etoh cirrhosis, presented with severe duodenal ulcer bleed and
   acute renal failure, now s/p GI intervention with stable hct, now
   improved with greatly improved uop:
   24 Hour Events:
   -hct stable
   -
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-8-25**] 04:00 AM
   Ciprofloxacin - [**2164-8-25**] 10:31 AM
   Infusions:
   Other ICU medications:
   Other medications:
   thiamine, ursodiol, mvi, midodrine, rifaximin, protonix, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): Jaundice
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-8-27**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 61 (56 - 84) bpm
   BP: 123/60(90) {109/60(74) - 158/99(103)} mmHg
   RR: 12 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  2,441 mL
                  PO:
                                                                  1,930 mL
                  TF:
   IVF:
                                                                    411 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,910 mL
                                                                  1,530 mL
   Urine:
                                                                  2,360 mL
                                                                  1,530 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -1,469 mL
                                                                 -1,530 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   General Appearance: No(t) Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : )
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   96 K/uL
   126 mg/dL
   1.5 mg/dL
   16 mEq/L
   3.8 mEq/L
   29 mg/dL
   113 mEq/L
   139 mEq/L
   31.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2164-8-24**]  05:01 PM
                             [**2164-8-24**]  06:00 PM
                             [**2164-8-25**]  01:08 AM
                             [**2164-8-25**]  04:25 AM
                             [**2164-8-25**]  01:47 PM
                             [**2164-8-25**]  09:06 PM
                             [**2164-8-25**]  09:07 PM
                             [**2164-8-26**]  04:00 AM
                             [**2164-8-26**]  03:26 PM
                             [**2164-8-27**]  04:00 AM
   WBC
   10.3
   8.5
   8.3
   Hct
   34.8
   33.8
   33.0
   32.9
   33.1
   31.4
   34.0
   31.9
   Plt
   94
   86
   96
   Cr
   2.1
   1.8
   1.8
   1.5
   Glucose
   98
   88
   141
   107
   126
   Other labs: PT / PTT / INR:21.6/47.0/2.0, ALT / AST:24/82, Alk Phos / T
   Bili:94/25.2, Fibrinogen:140 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.9
   g/dL, LDH:172 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Microbiology: all neg
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 BRADYCARDIA
 URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 CIRRHOSIS OF LIVER, ALCOHOLIC
   52M with etoh cirrhosis, presented with severe duodenal ulcer bleed and
   acute renal failure, now s/p GI intervention with stable hct, now
   improved with greatly improved uop.
   Overall, there has been a dramatic improvement in all acute issues.
   Namely, ARF is resolving, likely resolution of ATN and hypovolemia. Hct
   has been stable after GI intervention. No more fevers or hypotension.
   Other chronic issues per resident notes.
   ICU Care
   Nutrition: advance
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2164-8-23**] 03:23 PM
   18 Gauge - [**2164-8-26**] 04:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill